US07846923B2
2. 7-Benzyl-4-methylamino-7H-pyrrolo[2,3-b]pyridine-5-carbaldehyde
To solution of 4-methylamino-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (0.5 g, 2.86 mmol) in DMF is added Na2CO3 (900 mg, 8.6 mmol) and benzyl bromide (0.5 ml, 4.3 mmol). The reaction is stirred at room temperature for 12 hours. The reaction mixture is partitioned in 100 ml water and 100 ml ethyl acetate, extracted with ethyl acetate three times. The organic phase is combined and washed with brine, dried over Na2SO4. The crude product is purified by silica gel flash chromatography, eluted with 5% methanol in ethyl acetate to give the title compound as yellow solid. 1H NMR 400 MHz (DMSO-d6) δ 9.70 (s, 1H), 9.20 (q, 1H, J=5.2 Hz), 8.59 (s, 1H), 7.46 (m, 2H), 7.35 (m, 3H), 7.28 (d, 1H, J=2.8 Hz), 7.22 (d, 1H, J=2.4 Hz), 5.65 (s, 2H), 3.31 (d, 2H, J=2.4 Hz). MS m/z 266.2 (M+1).

reactant | 4-methylamino-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 2.86 mmol, 0.5 g | CNC1=C2C(=NC=C1C=O)NC=C2 | C9H9N3O
reactant | Na2CO3 | 8.6 mmol, 900 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzyl bromide | 4.3 mmol, 0.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | CN(C)C=O | C3H7NO
product | 7-Benzyl-4-methylamino-7H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | C(C1=CC=CC=C1)N1C=2C(=C(C(=C1)C=O)NC)C=CN2 | C16H15N3O
